US04235918
7.9 of methyl 4-(4-chloro-3-methylsulfamoylphenyl)-4-oxobutanoate are reacted with 6.9 g of methylamine in 100 ml of methanol and the mixture is worked up analogously to the instructions indicated in Example 2(b). 5-(4-Chloro-3-methylsulfamoylphenyl)-5-hydroxy-1-methyl-2-oxopyrrolidine of melting point 147°-150° C. is obtained.

reactant | methyl 4-(4-chloro-3-methylsulfamoylphenyl)-4-oxobutanoate | ClC1=C(C=C(C=C1)C(CCC(=O)OC)=O)S(NC)(=O)=O | C12H14ClNO5S
reactant | methylamine | 6.9 g | CN | CH5N
solvent | methanol | 100 ml | CO | CH4O
product | 5-(4-Chloro-3-methylsulfamoylphenyl)-5-hydroxy-1-methyl-2-oxopyrrolidine | ClC1=C(C=C(C=C1)C1(CCC(N1C)=O)O)S(NC)(=O)=O | C12H15ClN2O4S
